US08304419B2
To a solution of N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (95.0 mg, 0.196 mmol), cyclopropylacetylene (25.9 mg, 0.392 mmol), copper(I) iodide (1.869 mg, 9.81 μmol) and Palladiumbischlorobistriphenylphosphine(II) (10.25 mg, 0.020 mmol) in THF (6 ml) was added TEA (0.137 ml, 0.981 mmol) and the reaction mixture was irradiated in a personal microwave reactor for 10 minutes at 120° C. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(cyclopropylethynyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide (48 mg, 0.102 mmol, 52% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.28 (br. s., 1H), 7.76 (s, 1H), 7.59 (s, 1H), 7.39-7.53 (m, 2H), 7.34 (t, 1H), 7.14 (s, 1H), 4.51 (d, 2H), 1.47-1.64 (m, 1H), 0.83-1.01 (m, 2H), 0.71-0.81 (m, 2H). LC-MS (ES+) m/z 469.09, [M+H].

reactant | N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.196 mmol, 95.0 mg | BrC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F | C18H10BrCl2FN4O2
reactant | cyclopropylacetylene | 0.392 mmol, 25.9 mg | C1(CC1)C#C | C5H6
solvent | THF | 6 ml | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 9.81 μmol, 1.869 mg | [Cu]I
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(cyclopropylethynyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.102 mmol, 48 mg, 52% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#CC1CC1)C#N)F | C23H15Cl2FN4O2
